US07994164B2
(4-Bromo-2-nitro-phenyl)-(1-methyl-azetidin-3-yl)-amine
To a mixture of azetidin-3-yl-(4-bromo-2-nitro-phenyl)-amine, hydrochloride (27.7 mmol, 8.54 g) in acetonitrile (100 mL) and 37% aqueous formaldehyde (83.0 mmol, 6.28 mL, 3.00 equiv.) at 0° C. add sodium triacetoxyborohydride (88.6 mmol, 18.8 g) slowly. Stir at room temperature under nitrogen overnight. Remove volatiles under reduced pressure. Dilute with ethyl acetate, wash with 10% aqueous sodium bicarbonate twice, dry over anhydrous sodium sulfate, filter, and concentrate under reduced pressure to obtain 8.5 g of an orange solid. Purify on a 120 g silica column eluting with 5% methanol in dichloromethane to obtain the title compound (5.92 g, 75%). LC-MS m/z (79Br/81Br) 286.0/288.0 [M+H]+.

reactant | azetidin-3-yl-(4-bromo-2-nitro-phenyl)-amine, hydrochloride | 27.7 mmol, 8.54 g | Cl.N1CC(C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-]
reactant | formaldehyde | 83.0 mmol, 6.28 mL, 3.00 equiv. | C=O | CH2O
reactant | sodium triacetoxyborohydride | 88.6 mmol, 18.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Bromo-2-nitro-phenyl)-(1-methyl-azetidin-3-yl)-amine | 8.5 g | BrC1=CC(=C(C=C1)NC1CN(C1)C)[N+](=O)[O-] | C10H12BrN3O2
